Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: ORTHOPAEDICS
 
Allergies: 
morphine / Keflex
 
Attending: ___.
 
Chief Complaint:
Right hip pain 
 
Major Surgical or Invasive Procedure:
Intramedullary nail, right femur 

 
History of Present Illness:
Ms. ___ is a ___ female s/p fall presenting to ___
ED with R hip pain. She was in her kitchen when she fell
backwards onto her buttocks. No headstrike or LOC. She had right
hip pain and was unable to ambulate. Mild pain in her left
forearm, otherwise no pain elsewhere. Denies numbness or
paresthesias. 
 
Past Medical History:
- CKD
- Osteoporosis
- Anemia
- Dysphagia
- Cervical radiculopathy
- Polyneuropathy
- Frequent falls
- Hx Basal cell carcinoma
- Hx Lentigo maligna
- Hx Squamous cell carcinoma of skin
- Hx Ankle fracture
- Hx Humerus fracture, proximal w/ shoulder arthroplasty ___
 
Social History:
___
Family History:
Mother with facial cancer. Didn't know her father. Sister 
healthy.

 
Physical Exam:
Afebrile
Vital signs stable
Heart rate regular
Respirations non-labored

Right hip dressing clean, dry and intact 
Fires ___, FHL, TA, G
Sensation intact to light touch throughout out 
Foot WWP 
 
Brief Hospital Course:
The patient presented to the emergency department and was 
evaluated by the orthopedic surgery team. The patient was found 
to have a right hip fracture and was admitted to the orthopedic 
surgery service. The patient was taken to the operating room on 
___ for placement of a right trochanteric fixation nail, which 
the patient tolerated well. For full details of the procedure 
please see the separately dictated operative report. The patient 
was taken from the OR to the PACU in stable condition and after 
satisfactory recovery from anesthesia was transferred to the 
floor. The patient was initially given IV fluids and IV pain 
medications, and progressed to a regular diet and oral 
medications by POD#1. The patient was given ___ 
antibiotics and anticoagulation per routine. The patient's home 
medications were continued throughout this hospitalization. The 
patient worked with ___ who determined that discharge to rehab 
was appropriate. The ___ hospital course was otherwise 
unremarkable.

At the time of discharge the patient's pain was well controlled 
with oral medications, incisions were clean/dry/intact, and the 
patient was voiding/moving bowels spontaneously. The patient is 
weight-bearing as tolerated in the right lower extremity, and 
will be discharged on Lovenox for DVT prophylaxis. The patient 
will follow up with Dr. ___ per routine. A 
thorough discussion was had with the patient regarding the 
diagnosis and expected post-discharge course including reasons 
to call the office or return to the hospital, and all questions 
were answered. The patient was also given written instructions 
concerning precautionary instructions and the appropriate 
follow-up care. The patient expressed readiness for discharge.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Calcium Carbonate 600 mg PO DAILY 
2. Gabapentin 600 mg PO TID 
3. HYDROcodone-Acetaminophen (5mg-325mg) ___ TAB PO TID 
4. Levothyroxine Sodium 75 mcg PO DAILY 
5. Multivitamins 1 TAB PO DAILY 
6. LORazepam 1 mg PO BID 
7. Omeprazole 20 mg PO DAILY 
8. Denosumab (Prolia) 60 mg SC Q6MONTHS 
9. Sertraline 25 mg PO DAILY 
10. TraZODone 100 mg PO QHS:PRN insomnia 
11. Vitamin D ___ UNIT PO DAILY 
12. DiphenhydrAMINE 25 mg PO Q6H:PRN itching  
13. Docusate Sodium 100 mg PO BID:PRN constipation 
14. Hydrocortisone Cream 1% 1 Appl TP BID:PRN itching, rash 
15. LOPERamide 2 mg PO QID:PRN loose stool 
16. Milk of Magnesia 30 mL PO DAILY:PRN constipation 
17. Senna 17.2 mg PO BID:PRN constipation 
18. sulfacetamide sodium 10 % topical DAILY:PRN rash 
19. Voltaren (diclofenac sodium) 1 % topical BID:PRN Left thigh 
pain 

 
Discharge Medications:
1. Calcium Carbonate 600 mg PO DAILY 
2. Levothyroxine Sodium 75 mcg PO DAILY 
3. Docusate Sodium 100 mg PO BID:PRN constipation 
4. Milk of Magnesia 30 mL PO DAILY:PRN constipation 
5. Vitamin D ___ UNIT PO DAILY 
6. TraZODone 100 mg PO QHS:PRN insomnia 
7. Sertraline 25 mg PO DAILY 
8. Senna 17.2 mg PO BID:PRN constipation 
9. Acetaminophen 1000 mg PO Q8H 
RX *acetaminophen 650 mg 1 tablet(s) by mouth Five times daily 
Disp #*70 Tablet Refills:*0
10. Enoxaparin Sodium 40 mg SC QPM 
Start: Today - ___, First Dose: Next Routine Administration 
Time 
RX *enoxaparin 40 mg/0.4 mL 40 MG SC Every evening Disp #*28 
Syringe Refills:*0
11. HYDROmorphone (Dilaudid) ___ mg PO Q3H:PRN pain 
RX *hydromorphone [Dilaudid] 2 mg ___ tablet(s) by mouth Every 
three (3) hours Disp #*100 Tablet Refills:*0
12. Denosumab (Prolia) 60 mg SC Q6MONTHS 
13. DiphenhydrAMINE 25 mg PO Q6H:PRN itching  
14. Gabapentin 600 mg PO TID 
15. Hydrocortisone Cream 1% 1 Appl TP BID:PRN itching, rash 
16. LOPERamide 2 mg PO QID:PRN loose stool 
17. LORazepam 1 mg PO BID 
18. Multivitamins 1 TAB PO DAILY 
19. Omeprazole 20 mg PO DAILY 
20. sulfacetamide sodium 10 % topical DAILY:PRN rash 
21. Voltaren (diclofenac sodium) 1 % topical BID:PRN Left thigh 
pain 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Right intetrochanteric hip fracture

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Ms. ___, 

- You were in the hospital for orthopedic surgery. It is normal 
to feel tired or "washed out" after surgery, and this feeling 
should improve over the first few days to week. 
- Resume your regular activities as tolerated, but please follow 
your weight bearing precautions strictly at all times.

ACTIVITY AND WEIGHT BEARING:
- You are encouraged to bear weight as tolerated on your right 
lower extremity. 

MEDICATIONS:
- Please take all medications as prescribed by your physicians 
at discharge.
- Continue all home medications unless specifically instructed 
to stop by your surgeon.
- Do not drink alcohol, drive a motor vehicle, or operate 
machinery while taking narcotic pain relievers.
- Narcotic pain relievers can cause constipation, so you should 
drink eight 8oz glasses of water daily and take a stool softener 
(colace) to prevent this side effect.

ANTICOAGULATION:
- Please take Lovenox 40mg daily for 4 weeks

WOUND CARE:
- You may shower. No baths or swimming for at least 4 weeks.
- Any stitches or staples that need to be removed will be taken 
out at your 2-week follow up appointment.
- No dressing is needed if wound continues to be non-draining.
Physical Therapy:
Weight bearing as tolerated, right lower extremity 
Range of motion as tolerated 
Treatments Frequency:
General postoperative care 
Wound monitoring 
Dry sterile dressing to wound as needed 
Lovenox education 
Sutures/Staples out at ___ postoperative visit 
Discharge to rehab: Expected length of stay less than 30 days. 
 
Followup Instructions:
___